US08685969B2
7. 4-(3-(4-(Dimethylamino)benzamido)-2-fluorophenyl)-7-morpholino-9H-pyrido[3,4-b]indole-1-carboxylic acid
To a suspension of ethyl 4-(3-(4-(dimethylamino)benzamido)-2-fluorophenyl)-7-morpholino-9H-pyrido[3,4-b]indole-1-carboxylate (0.138 g, 0.237 mmol) in methanol (4 mL) at room temperature was added sodium hydroxide (1.068 mL, 1.068 mmol). The mixture was heated at reflux for 45 min. The methanol was removed under vacuum. To the residue was added water (5 mL), and the mixture was acidified with 1 N HCl to pH 5. The insoluble product (0.110 g, 0.199 mmol, 84% yield) was collected as a tan solid with suction filtration and dried at 50° C. under vacuum.

reactant | ethyl 4-(3-(4-(dimethylamino)benzamido)-2-fluorophenyl)-7-morpholino-9H-pyrido[3,4-b]indole-1-carboxylate | 0.237 mmol, 0.138 g | CN(C1=CC=C(C(=O)NC=2C(=C(C=CC2)C2=CN=C(C=3NC4=CC(=CC=C4C32)N3CCOCC3)C(=O)OCC)F)C=C1)C | C33H32FN5O4
reactant | sodium hydroxide | 1.068 mmol, 1.068 mL | [OH-].[Na+]
solvent | methanol | 4 mL | CO | CH4O
product | 4-(3-(4-(Dimethylamino)benzamido)-2-fluorophenyl)-7-morpholino-9H-pyrido[3,4-b]indole-1-carboxylic acid | 0.199 mmol, 0.110 g, 84% yield | CN(C1=CC=C(C(=O)NC=2C(=C(C=CC2)C2=CN=C(C=3NC4=CC(=CC=C4C32)N3CCOCC3)C(=O)O)F)C=C1)C | C31H28FN5O4
